US06008229
To a solution of 8-[2,6-dichloro-3-((E)-3-phthalimido-1-propenyl)benzyloxy]-2-methylquinoline (43 mg) in chloroform (1 ml) was added 2M solution of methylamine in methanol (0.5 ml), and the mixture was stirred in the dark at ambient temperature overnight. The mixture was evaporated in vacuo, and the residue was purified by preparative thin layer chromatography to give 8-[3-((E)-3-amino-1-propenyl)-2,6-dichlorobenzyloxy]-2-methylquinoline (27 mg) as pale yellow amorphous.

reactant | 8-[2,6-dichloro-3-((E)-3-phthalimido-1-propenyl)benzyloxy]-2-methylquinoline | 43 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1\C=C\CN1C(C=2C(C1=O)=CC=CC2)=O)Cl | C28H20Cl2N2O3
reactant | methylamine | CN | CH5N
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.5 ml | CO | CH4O
product | 8-[3-((E)-3-amino-1-propenyl)-2,6-dichlorobenzyloxy]-2-methylquinoline | 27 mg | NC/C=C/C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C20H18Cl2N2O
